US04545995
(E)-4-(4-Chlorophenyl)-N,N-diethyl-2-buten-1-amine
Add 30 ml diethylamine to 10.0 g (0.05 mole) of a 7:3 mixture of (E)-1-chloro-4-(4-chloro-2-butenyl)benzene and 1-chloro-4-(2-chloro-3-butenyl)benzene and stir at room temperature overnight. Dissolve reaction mixture in 100 ml 1N HCl and wash with 50 ml ethyl acetate. Extract ethyl acetate layer with 50 ml 1N HCl. Combine aqueous layers and add cold 4N NaOH until solution has pH=9. Extract aqueous phase with 5×60 ml Et2O. Dry ethereal extracts over Na2SO4 and then filter. Evaporate solvent to provide the title compound.

reactant | diethylamine | 30 ml | C(C)NCC | C4H11N
reactant | (E)-1-chloro-4-(4-chloro-2-butenyl)benzene | ClC1=CC=C(C=C1)C\C=C\CCl | C10H10Cl2
reactant | 1-chloro-4-(2-chloro-3-butenyl)benzene | ClC1=CC=C(C=C1)CC(C=C)Cl | C10H10Cl2
solvent | HCl | 1N, 100 ml | Cl | ClH
product | (E)-4-(4-Chlorophenyl)-N,N-diethyl-2-buten-1-amine | ClC1=CC=C(C=C1)C/C=C/CN(CC)CC | C14H20ClN
